US06150377
9B. (4-Fluoro-3-iodo-phenyl)-acetonitrile
4-Bromomethyl-1-fluoro-2-iodo-benzene (33.8 g, 107 mMol) was added to 240 mL of a 0.5M solution of lithium cyanide in DMF. The reaction mixture was heated to 80° C. under an atmosphere of dry N2 and stirred overnight at this temperature. The mixture was then cooled to ambient temperature and partitioned between Et2O and 0.1N aqueous NaOH. The Et2O layer was then washed 4 more times with 0.1N aqueous NaOH. The Et2O layer was then dried over MgSO4, fiftered and concentrated under vacuum to give 24.7 9 of the titled compound as a red solid which was used without purification.

reactant | 4-Bromomethyl-1-fluoro-2-iodo-benzene | 107 mMol, 33.8 g | BrCC1=CC(=C(C=C1)F)I | C7H5BrFI
reactant | lithium cyanide | [C-]#N.[Li+]
solvent | DMF | CN(C)C=O | C3H7NO
product | (4-Fluoro-3-iodo-phenyl)-acetonitrile | FC1=C(C=C(C=C1)CC#N)I | C8H5FIN
